US07872014B2
To a solution of 1-(chloromethyl)-5-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]benzene (6.82 g, 24.3 mmol) in DMF (60 mL) was added potassium cyanide (3.2 g, 48.6 mmol), and the resulting mixture was stirred at 50° C. for 2 h 20 min before cooling to rt. Water and brine were added, and the resulting aqueous mixture was extracted with ethyl acetate. The organic phase was washed twice with brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (80% hexanes, 20% ethyl acetate) to afford {5-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]phenyl}acetonitrile (5.3 g, 19.5 mmol, 80% yield) as a colorless oil which eventually solidified. 1H NMR (400 MHz, CDCl3): δ 7.42-7.32 (m, 5H), 6.69-6.67 (m, 2H), 5.08 (s, 2H), 3.89 (s, 3H), 3.70 (s, 2H).

reactant | 1-(chloromethyl)-5-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]benzene | 24.3 mmol, 6.82 g | ClCC1=C(C(=CC(=C1)F)OCC1=CC=CC=C1)OC | C15H14ClFO2
reactant | potassium cyanide | 48.6 mmol, 3.2 g | [C-]#N.[K+]
reactant | Water | O | H2O
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
product | {5-fluoro-2-(methyloxy)-3-[(phenylmethyl)oxy]phenyl}acetonitrile | 19.5 mmol, 5.3 g, 80% yield | FC=1C=C(C(=C(C1)CC#N)OC)OCC1=CC=CC=C1 | C16H14FNO2
